US08242129B2
(E)-3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid
Commercially available 3-formylbenzoic acid (15.0 g, 0.1 mol) and commercially available 4′-hydroxy-3′-methylacetophenone (15.0 g, 0.1 mol) were dissolved in 150 mL of methanol and 50 mL of water. The solution was cooled with an ice-water bath, to which was added potassium hydroxide (28.0 g, 0.5 mol). The reaction mixture was stirred overnight. The resulted mixture was poured on to 600 mL of ice-water, acidified to pH=4-5 with 1 N HCl, filtered, washed with water (200 mL), methanol (100 mL) and dried in the air. 19 g (67%) of a yellowish solid was obtained. 1 H NMR (400 MHz, DMSO-d6): δ 13.18 (br, 1H), 10.39 (s, 1H), 8.38 (s, 1H), 8.15 (m, 1H), 7.95 (m, 4H), 7.75 (d, 1H), 7.60 (m, 1H), 6.95 (d, 1H), 2.20 (s, 3H). MS (EI): 283 (MH+).

reactant | 3-formylbenzoic acid | 0.1 mol, 15.0 g | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | 4′-hydroxy-3′-methylacetophenone | 0.1 mol, 15.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | potassium hydroxide | 0.5 mol, 28.0 g | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | (E)-3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid | 19 g, 67% | OC1=C(C=C(C=C1)C(/C=C/C=1C=C(C(=O)O)C=CC1)=O)C | C17H14O4
